US09359286B2
To a stirred mixture of 6-iodo-3,4-dihydronaphthalen-1(2H)-one (I-8A, 20.90 g, 77 mmol), p-toluenesulfonic acid monohydrate (0.584 g, 3.07 mmol), and cyclohexane (40 mL) was added (S)-2-(methoxymethyl)pyrrolidin-1-amine (10 g, 77 mmol) dropwise at room temperature under nitrogen. The mixture was heated with azeotropic removal of water for 5 h. The reaction mixture was diluted with ethyl acetate (20 mL) and mixed with saturated aqueous sodium bicarbonate solution (15 mL). The aqueous layer was separated and extracted with ethyl acetate (2×30 mL). The combined organic solutions were dried over anhydrous sodium sulfate and concentrated under reduced pressure. Flash chromatography purification (330 g silica gel column, gradient elution from 0% to 20% EtOAc in hexanes) afforded (S)—N-(6-iodo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-(methoxymethyl)pyrrolidin-1-amine (29.1 g, 76 mmol) as a yellow liquid. LC/MS M+1=385.

reactant | 6-iodo-3,4-dihydronaphthalen-1(2H)-one | 77 mmol, 20.90 g | IC=1C=C2CCCC(C2=CC1)=O | C10H9IO
reactant | cyclohexane | 40 mL | C1CCCCC1 | C6H12
reactant | (S)-2-(methoxymethyl)pyrrolidin-1-amine | 77 mmol, 10 g | COC[C@H]1N(CCC1)N | C6H14N2O
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid monohydrate | 3.07 mmol, 0.584 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | (S)—N-(6-iodo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-(methoxymethyl)pyrrolidin-1-amine | 76 mmol, 29.1 g | IC=1C=C2CCCC(C2=CC1)=NN1[C@@H](CCC1)COC | C16H21IN2O
